US06048994
325 mg Of 4-imethylsilylstyrene, 212 mg of methyldimethoxysilane, and 83 mg of toluene were placed in a glass reaction vessel and 0.005 ml of acetic acid was added. Next, 0.001 ml of an isopropyl alcohol solution of chloroplatinic acid (platinum content: 0.39 Wt. %) was added to this mixture. The reaction tube was sealed with Teflon tape and heated for 0.5 hours in an oil bath at 50° C. When the contents were analyzed by GC-MS following cooling, the conversion rate of 4-dimethylsilylstyrene was 63.6% and (4-(dimethylsilyl) phenethyl)methyldimethoxysilane was produced at a yield of 4.9%. The yield of α-(4-(dimethylsilyl)phenyl)ethyl) methyldimethoxysilane was 1.8%.

reactant | methyldimethoxysilane | 212 mg | C[SiH](OC)OC | C3H10O2Si
reactant | toluene | 83 mg | C1(=CC=CC=C1)C | C7H8
reactant | acetic acid | 0.005 ml | C(C)(=O)O | C2H4O2
reactant | 4-dimethylsilylstyrene | C[SiH](C1=CC=C(C=C)C=C1)C | C10H14Si
catalyst | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
solvent | isopropyl alcohol | 0.001 ml | C(C)(C)O | C3H8O
product | (4-(dimethylsilyl) phenethyl)methyldimethoxysilane | yield of 4.9% | C[SiH](C1=CC=C(CCC[SiH](OC)OC)C=C1)C | C13H24O2Si2
